US07667041B2
Synthesis of (E)-1-[1-(3,4-difluorobenzyl)-(3S)-pyrrolidin-3-yl]-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]piperidin-2-one
To a solution of (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid ethyl ester (200 mg) and ((3S)-1-(3,4-difluorobenzyl)pyrrolidine-3-yl)amine dihydrochloride (315 mg) in acetonitrile (8 mL) and water (2 mL), potassium carbonate (228 mg) and sodium iodide (831 mg) were added. After carrying out heat-refluxing of the reaction solution for 12 hours, the reaction solution allowed to be cooled to room temperature and concentrated under reduced pressure. A 2N sodium hydroxide solution (1 mL) in ethanol (5 mL) was added to the obtained residue. After agitating the reaction mixture at room temperature for 12 hours, it was neutralized with a 5N hydrochloric acid solution, and the reaction solution was extracted with ethyl acetate. After the obtained organic layer was washed with a saturated saline solution, it was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. 200 mg of the title compound was obtained by purifying the residue by silica gel chromatography (Carrier: Chromatorex™ NH; elution solvent:ethyl acetate). The physical properties of the compound are as follows.

reactant | (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid ethyl ester | 200 mg | C(C)OC(/C(/CCCCl)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C19H23ClN2O3
reactant | ((3S)-1-(3,4-difluorobenzyl)pyrrolidine-3-yl)amine dihydrochloride | 315 mg | Cl.Cl.FC=1C=C(CN2C[C@H](CC2)N)C=CC1F
reactant | potassium carbonate | 228 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 831 mg | [I-].[Na+]
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
solvent | water | 2 mL | O | H2O
product | (E)-1-[1-(3,4-difluorobenzyl)-(3S)-pyrrolidin-3-yl]-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]piperidin-2-one | 200 mg | FC=1C=C(CN2C[C@H](CC2)N2C(/C(/CCC2)=C/C2=CC(=C(C=C2)N2C=NC(=C2)C)OC)=O)C=CC1F | C28H30F2N4O2
